* /home/neethu/esim-workspace/vh_vl_cascaded/vh_vl_cascaded.cir
* 10bitdac Netlist

.include switch.sub
.include Vh_Vl_3bit_new.sub
v2 /vdd gnd  dc 3.3
v3  /bit_in1 gnd pulse(0 1.8 10p 60p 60p 2m 4m)
v1 net-_x1-pad2_ gnd  dc 3.3
v4  bit_in2 gnd pulse(0 1.8 10p 60p 60p 4m 8m)
* u1  outl outh outl1 outh1 outh4 port
v5  bit_in3 gnd pulse(0 1.8 10p 60p 60p 8m 16m)
x1 outl net-_x1-pad2_ net-_x1-pad3_ /vdd /bit_in1 bit_in2 bit_in3 outh Vh_Vl_3bit_new
x2 outl1 net-_x1-pad3_ net-_x2-pad3_ /vdd /bit_in1 bit_in2 bit_in3 outh1 Vh_Vl_3bit_new
x3 /vdd bit_in4 outh1 outh outh4 switch
v6  bit_in4 gnd pulse(0 1.8 10p 60p 60p 16m 32m)
* u2  outl2 outh2 outl3 outh3 outh5 outl4 outl5 outh_stage2 out_10bitdac port
x4 outl2 net-_x2-pad3_ net-_x4-pad3_ /vdd /bit_in1 bit_in2 bit_in3 outh2 Vh_Vl_3bit_new
x5 outl3 net-_x4-pad3_ gnd /vdd /bit_in1 bit_in2 bit_in3 outh3 Vh_Vl_3bit_new
x6 /vdd bit_in4 outh3 outh2 outh5 switch
x7 /vdd bit_in4 outl1 outl outl4 switch
x8 /vdd bit_in4 outl3 outl2 outl5 switch
x10 /vdd bit_in5 outh5 outh4 outh6 switch
x9 /vdd bit_in5 outl5 outl4 outl6 switch
v7  bit_in5 gnd pulse(0 1.8 10p 60p 60p 32m 64m)
v8  b2 gnd pulse(0 1.8 10p 60p 60p 0.25m 0.5m)
v9  b3 gnd pulse(0 1.8 10p 60p 60p 0.5m 1m)
v10  b4 gnd pulse(0 1.8 10p 60p 60p 1m 2m)
v11  b0 gnd pulse(0 1.8 10p 60p 60p 0.0625m 0.125m)
v12  b1 gnd pulse(0 1.8 10p 60p 60p 0.125m 0.25m)
r10  outh1_stage2 net-_r10-pad2_ 100k
r11  net-_r10-pad2_ net-_r11-pad2_ 100k
r12  net-_r11-pad2_ outl_stage2 100k
x25 /vdd b0 net-_r10-pad2_ outh1_stage2 net-_x25-pad5_ switch
x26 /vdd b0 outl_stage2 net-_r11-pad2_ net-_x26-pad5_ switch
x27 /vdd b1 net-_x26-pad5_ net-_x25-pad5_ out_10bitdac switch
x18 /vdd b2 vrefl outh6 vh switch
r1  outh6 vrefl 150k
r2  vrefl net-_r2-pad2_ 150k
x14 /vdd b2 net-_r2-pad2_ vrefl vl switch
r3  net-_r2-pad2_ net-_r3-pad2_ 150k
x21 /vdd b2 net-_r3-pad2_ net-_r2-pad2_ vh2 switch
x15 /vdd b2 net-_r4-pad2_ net-_r3-pad2_ vl2 switch
r4  net-_r3-pad2_ net-_r4-pad2_ 150k
r5  net-_r4-pad2_ net-_r5-pad2_ 150k
x23 /vdd b3 vh2 vh vh5 switch
x12 /vdd b3 vl2 vl vl5 switch
x20 /vdd b2 net-_r5-pad2_ net-_r4-pad2_ vh3 switch
x19 /vdd b2 net-_r7-pad2_ net-_r6-pad2_ vh4 switch
x22 /vdd b3 vh4 vh3 vh6 switch
r6  net-_r5-pad2_ net-_r6-pad2_ 150k
r7  net-_r6-pad2_ net-_r7-pad2_ 150k
r8  net-_r7-pad2_ outl6 150k
x24 /vdd b4 vh6 vh5 outh_stage2 switch
x16 /vdd b2 net-_r6-pad2_ net-_r5-pad2_ vl3 switch
x17 /vdd b2 outl6 net-_r7-pad2_ vl4 switch
x13 /vdd b3 vl4 vl3 vl6 switch
x11 /vdd b4 vl6 vl5 outl_stage2 switch
r9  outh1_stage2 outh_stage2 100k
.tran 0.0625e-03 64e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
